US07345056B2
12-(4-Chloro-benzenesulfonyl)-5-methyl-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene MS (ES) m/e 416.0 (M+H)+
Prepared as described in Example 5 using methyl hydrazine and 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one which was prepared as described in Example 34.

reactant | methyl hydrazine | CNN | CH6N2
reactant | 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)=CO | C15H16ClNO4S
product | 12-(4-Chloro-benzenesulfonyl)-5-methyl-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NN(C3CC1CCC2)C | C16H18ClN3O2S
